US05965730
2-Bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine (362 mg), 4-picolyl chloride hydrochloride (180 mg), and potassium carbonate (359 mg) are added to dimethylformamide (10 ml), and the mixture is heated with stirring at 80° C. for three hours under nitrogen atmosphere. Water is added to the reaction mixture, and the mixture is extracted with methylene chloride. The extract is washed, dried, and concentrated to give 2-bromo-4-[6,7-dimethoxy-2-(4-pyridyl)methylphthalazin-1(2H)-on-4-yl]pyridine (355 mg).

reactant | 2-Bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine | 362 mg | BrC1=NC=CC(=C1)C1=NNC(C2=CC(=C(C=C12)OC)OC)=O | C15H12BrN3O3
reactant | 4-picolyl chloride hydrochloride | 180 mg | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 359 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-bromo-4-[6,7-dimethoxy-2-(4-pyridyl)methylphthalazin-1(2H)-on-4-yl]pyridine | 355 mg | BrC1=NC=CC(=C1)C1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CC1=CC=NC=C1 | C21H17BrN4O3
